US05811459
N-(2-Hydroxyethyl)-4-[2-(3-benzyloxy-2-pyridyl)ethyl]benzamide
Methyl 4-[2-(3-benzyloxy-2-pyridyl)ethyl]benzoate (0.20 g, 0.576 mmol) was dissolved in ethanolamine (3 ml) and heated to 160° C. under argon for 2 hours. Water was added (3 ml) and the aqueous layers were extracted with ethyl acetate and the organic phase was dried (MgSO4) and evaporated. The residue was recrystallised from EtOAc/hexane and washed with ether to give the title product (0.064 g, 29%).

reactant | Methyl 4-[2-(3-benzyloxy-2-pyridyl)ethyl]benzoate | 0.576 mmol, 0.20 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CCC1=CC=C(C(=O)OC)C=C1 | C22H21NO3
reactant | Water | O | H2O
reactant | ethanolamine | 3 ml | C(O)CN | C2H7NO
product | N-(2-Hydroxyethyl)-4-[2-(3-benzyloxy-2-pyridyl)ethyl]benzamide | 0.064 g, 29% | OCCNC(C1=CC=C(C=C1)CCC1=NC=CC=C1OCC1=CC=CC=C1)=O | C23H24N2O3
